US06239142B1
N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-propyl-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide (418 mg) from Example No. 41 and potassium carbonate (152 mg) are suspended in DMF (10 mL) and to the mixture is added 1-iodopropane (107 μL). The reaction mixture is allowed to stir at room temperature for 4 h. Additional 1-iodopropane (107 μL) is added and the mixture is heated to 60° C. for 2 h. The mixture is allowed to cool to room temperature and stand for 18 h. The resulting suspension is poured into water (25 mL), filtered, and washed with water (5 mL) followed by diethyl ether (5 mL). The resulting crude solid is purified by recrystallization from ethanol to afford 335 mg (73%) of the title compound as a white solid.

reactant | N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide | 418 mg | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CN3CCOCC3)O)C=C1 | C20H20ClN3O3S
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 107 μL | ICCC | C3H7I
reactant | 1-iodopropane | 107 μL | ICCC | C3H7I
reactant | water | 25 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-propyl-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 335 mg, 73% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCC)SC(=C3)CN3CCOCC3)=O)C=C1 | C23H26ClN3O3S
